US04777281
[(3,4-Dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetic acid (351 mg, 1 mmole) is dissolved in tetrahydrofuran (10 ml) and treated with 1,1'-carbonyldiimidazole (160 mg, 1 mmole) and the mixture stirred at room temperature for an hour. 2-Hydroxy-2-methylpropionic acid (105 mg, 1 mmole) is added and the mixture stirred for 18 hours at room temperature. The solvent is removed by evaporation in vacuo and the residue purified by column chromatography on silica gel using dichloromethane/tetrahydrofuran/acetic acid 100/2/1, v.v.v. to give 1-carboxy-1-methylethyl [(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetate.

reactant | [(3,4-Dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetic acid | 1 mmole, 351 mg | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC(=O)O | C19H20Cl2O4
reactant | 1,1'-carbonyldiimidazole | 1 mmole, 160 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-Hydroxy-2-methylpropionic acid | 1 mmole, 105 mg | OC(C(=O)O)(C)C | C4H8O3
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-carboxy-1-methylethyl [(3,4-dichloro-6,7,8,8a,9,10-hexahydro-6-oxo-8a-propyl-2-phenanthrenyl)oxy]acetate | ClC=1C(=CC=2CCC3(CCC(C=C3C2C1Cl)=O)CCC)OCC(=O)OC(C)(C)C(=O)O | C23H26Cl2O6
